US07396844B1
Synthesis of ethyl 4-(2-imidazoline-2-yl)benzoate
2.96 g (11.5 mmol) of ethyl 4-ethoxycarbonimidoylbenzoate hydrochloride and 690 mg (11.5 mmol) of ethylenediamine were stirred in 100 ml of ethanol at 60° C. for 4 hours. The solvent was evaporated. 1 N aqueous sodium hydroxide solution was added to the residue. After the extraction with dichloromethane followed by the washing with saturated Aqueous NaCl solution and drying over anhydrous magnesium sulfate, the solvent was evaporated to obtain the title compound.

reactant | ethyl 4-ethoxycarbonimidoylbenzoate hydrochloride | 11.5 mmol, 2.96 g | Cl.C(C)OC(=N)C1=CC=C(C(=O)OCC)C=C1
reactant | ethylenediamine | 11.5 mmol, 690 mg | C(CN)N | C2H8N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-(2-imidazoline-2-yl)benzoate | N1C(=NCC1)C1=CC=C(C(=O)OCC)C=C1 | C12H14N2O2
